datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]([C:7]([C:8]([C:9]([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]([H:24])([H:25])[C:9]1([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])[H:13],81.1696
[C:4](=[C:5]([H:7])[H:8])[H:6].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4](=[C:5]([H:7])[H:8])[H:6].[O:0][O:1][H:3],-31.2963
[O:0]=[S:1][O:2][H:3].[O:4][H:5]>>[H:3][O:4][H:5].[O:0]=[S:1]=[O:2],0.0
[O:0]([S:1])[H:2].[S:3]([H:4])[H:5]>>[O:0]([S:1][H:4])[H:2].[S:3][H:5],52.3
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:18]([C:17](=[C:16]([H:22])[H:23])[H:24])([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:8])([H:6])[H:7],71.2117
[C:0]([C:1](=[O:2])[C:3]([C:4]([H:11])([H:12])[H:13])([O:5][O:6])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([H:12])[H:13])([O:5][O:6][H:11])[H:10])([H:7])([H:8])[H:9],124.2648
[C:0](=[O:1])[H:2].[O:3][O:4]>>[C:0](=[O:1])([H:2])[O:3][O:4],0.0
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([S:9][H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:10])([H:11])[H:12])([S:9][H:14])[H:13],27.6144
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9](=[C:10]([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0]1([H:3])([H:4])[C:1](=[C:2]([H:5])[H:6])[C:7]([H:11])([H:12])[C:8]([H:13])=[C:9]([H:14])[C:10]1([H:15])[H:16],121.336
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22](=[C:23]([C:24]([C:25]([H:31])([H:32])[H:33])[C:26](=[C:27]([H:35])[H:36])[H:34])[H:30])([H:28])[H:29]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:24]([C:23](=[C:22]([H:28])[H:29])[H:30])([C:25]([H:31])([H:32])[H:33])[C:26](=[C:27]([H:35])[H:36])[H:34],92.8848
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:25]([C:24]([H:28])([H:29])[H:30])([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:14])([H:12])[H:13],3.89112
[C:16]([H:17])([H:18])[H:19].[O:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:8][C:16]([H:17])([H:18])[H:19].[O:0][C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10],41.58896
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[O:5]1)([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11].[O:6][H:18],45.6056
[C:0](=[S:1])[H:2].[H:3][H:4]>>[C:0](=[S:1])([H:2])[H:4].[H:3],61.0864
[N:0](=[O:1])[H:2].[O:3]>>[H:2][O:3].[N:0]=[O:1],2.76144
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([C:25]([C:26]([H:36])([H:37])[H:38])[c:27]1[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]1[H:43])([H:33])([H:34])[H:35]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:25]([C:24]([H:33])([H:34])[H:35])([C:26]([H:36])([H:37])[H:38])[c:27]1[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]1[H:43])[H:14])([H:12])[H:13],28.6186
[C:0](=[C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:12])[H:13])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([H:12])([H:13])[C:4]1([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19],134.892
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[O:5][H:16])[H:9])([H:6])([H:7])[H:8].[O:17][O:18]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[O:5][H:16])([H:9])[O:17][O:18])([H:6])([H:7])[H:8],0.0
[C:0]([C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]1[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8],162.339
